US07662972B2
Step 3: Production of 4-hydroxyiminomethyl-2-methyl-N-(2-pyridylmethyl)benzoic acid amide
In a solution of 0.50 g of 4-formyl-2-methyl-N-(2-pyridylmethyl)benzoic acid amide in 10 ml of ethanol and 5 ml of water, 0.18 g of hydroxyamine hydrochloride was added with stirring at room temperature, and stirred at the same temperature for 12 hours. After the completion of the reaction, solid was filtered off, ethanol was distilled off under reduced pressure, and 30 ml of saturated sodium hydrogen carbonate aqueous solution was added in the remaining aqueous solution. The precipitated crystal was filtered off, washed with water and dried to obtain 0.45 g of the aimed product as pale yellow crystal.

reactant | 4-formyl-2-methyl-N-(2-pyridylmethyl)benzoic acid amide | 0.50 g | C(=O)C1=CC(=C(C(=O)NCC2=NC=CC=C2)C=C1)C | C15H14N2O2
reactant | hydroxyamine hydrochloride | 0.18 g | Cl.ON
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 4-hydroxyiminomethyl-2-methyl-N-(2-pyridylmethyl)benzoic acid amide | 0.45 g | ON=CC1=CC(=C(C(=O)NCC2=NC=CC=C2)C=C1)C | C15H15N3O2
